US07446199B2
To 5-Bromo-1H-pyrrolo[2,3-b]pyridine (1.5 g, 7.61 mmol) in THF (200 mL) at −78 C, under nitrogen, was added n-butyl lithium (2.5M in hexanes, 15.2 mmol, 6.1 mL), and the reaction solution was stirred with an overhead motor. After 1 hr, the resulting orange gel was quenched with methylormate (4.56 g, 76 mmol) and the reaction solution was allowed to slowly warm to 23C. The solution was poured into water and extracted with ethyl acetate, dried (Na2SO4) to give 1H-Pyrrolo[2,3-b]pyridine-5-carbaldehyde (0.68 g, 61% yield) as a yellow solid.

reactant | 5-Bromo-1H-pyrrolo[2,3-b]pyridine | 7.61 mmol, 1.5 g | BrC=1C=C2C(=NC1)NC=C2 | C7H5BrN2
reactant | n-butyl lithium | 15.2 mmol, 2.5M, 6.1 mL | C(CCC)[Li]
reactant | THF | 200 mL | C1CCOC1 | C4H8O
product | 1H-Pyrrolo[2,3-b]pyridine-5-carbaldehyde | 0.68 g, 61% yield | N1C=CC=2C1=NC=C(C2)C=O | C8H6N2O
